US06894050B2
Preparation of Intermediate 5′-tert-Butoxycarbonylamino-6′-(3-chloro-benzyloxy)-2,3,5,6-tetrahydro-[1,2′]bipyrazinyl-4-carboxylic acid tert-butyl ester (I-3g)
[5-Bromo-3-(3-chloro-benzyloxy)-pyrazin-2-yl]-carbamic acid tert-butyl ester I-3p (2.18 g, 5.3 mmol), pperazine-1-carboxylic acid tert-butyl ester (1.18 g, 6.3 mmol), sodium tert-butoxide (0.71 g, 7.4 mmol), racemic BINAP (196 mg, 315 μmol), and tris(benzylideneacetone)dipalladium (96.5 mg, 105 μmol) were placed in a vial equipped with a septum cap. The vial was evacuated and backfilled with dry nitrogen three times, and toluene (11 mL) added. The mixture was heated to 80° C. for 2 h then cooled to room temperature. Resulting suspension was transferred to a flask with CH2Cl2 and concentrated in vacuo to an amber oily solid. Purification by silica gel column (hexanes/EtOAc 7:3) gave the title compound I-3q as a yellow foam (560 mg, 25% yield).

reactant | [5-Bromo-3-(3-chloro-benzyloxy)-pyrazin-2-yl]-carbamic acid tert-butyl ester | 5.3 mmol, 2.18 g | C(C)(C)(C)OC(NC1=NC=C(N=C1OCC1=CC(=CC=C1)Cl)Br)=O | C16H17BrClN3O3
reactant | sodium tert-butoxide | 7.4 mmol, 0.71 g | CC(C)([O-])C.[Na+]
reactant | BINAP | 315 μmol, 196 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 5′-tert-Butoxycarbonylamino-6′-(3-chloro-benzyloxy)-2,3,5,6-tetrahydro-[1,2′]bipyrazinyl-4-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC(=C(N=C1)NC(=O)OC(C)(C)C)OCC1=CC(=CC=C1)Cl | C25H34ClN5O5
